US05314896
(R)-3-phenyl-3-cyclohexenecarboxvlic acid
3-Phenyl-3-cyclohexenecarboxylic acid (8.1 g, Step C) is dissolved in 2-butanone (20 mL) and (S)-α-methylbenzylamine (4.85 g) in 2-butanone (10 mL) added. The salt precipitates and more 2-butanone (200 mL) is added and the mixture heated to dissolve the salt. The salt recrystallizes on cooling to 25° C. and it is collected and dried to give 10.02 g of the salt. The salt is recrystallized 5 times from 2-butanone to give 3.14 g of a white powder. The powder is slurried in ethyl acetate and washed with 2N hydrochloric acid. The ethyl acetate layer is dried over magnesium sulfate, filtered, and evaporated to give (R)-3-phenyl. 3-cyclohexenecarboxylic acid as a white powder; mp 77°-80° C.

reactant | 3-cyclohexenecarboxylic acid | C1(CC=CCC1)C(=O)O | C7H10O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (R)-3-phenyl-3-cyclohexenecarboxvlic acid | C1(=CC=CC=C1)C=1C[C@@H](CCC1)C(=O)O | C13H14O2
